US06048864
(d) 4-Amino-6-benzyloxy-2-hydrox-7-methoxyquinazoline
A solution of 2-amino-5-benzyloxy-4-methoxybenzonitrile (26.7 g, 0.10 mol) in dichloromethane was treated with sodium cyanate (17.1 g, 0.26 mol) and then trifluoroacetic acid (20.9 ml, 0.26 mol) was added dropwise to the resulting mixture at room temperature. After 45 minutes, the mixture was diluted with dichloromethane (11) and stirred for a further 18 hours. The mixture was then concentrated under reduced pressure and partitioned between methanol and 2N aqueous sodium hydroxide and stirred for 2 hours. The methanol was then removed under reduced pressure and the yellow solid isolated by filtration, washing sequentially with water, acetone and diethyl ether to afford the subtitle compound as a yellow solid (18.0 g, 54%). A further quantity of product was obtained by concentration of the filtrate, acidification with concentrated hydrochloric acid (95 ml), warming on a steam bath for 5 minutes, cooling and neutralisation with solid potassium carbonate. The solid obtained was isolated by filtration, washing sequentially with water, ethanol and diethyl ether to afford the subtitle compound as a yellow solid (12.11 g, 93% combined yield). Rf 0.23 (0.880 aqueous ammonia:methanol:dichloromethane 2:14:84, v/v). MS m/z 298 (MH)+.

reactant | 2-amino-5-benzyloxy-4-methoxybenzonitrile | 0.10 mol, 26.7 g | NC1=C(C#N)C=C(C(=C1)OC)OCC1=CC=CC=C1 | C15H14N2O2
reactant | sodium cyanate | 0.26 mol, 17.1 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 0.26 mol, 20.9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Amino-6-benzyloxy-2-hydrox-7-methoxyquinazoline | 18.0 g, 54% | NC1=NC(=NC2=CC(=C(C=C12)OCC1=CC=CC=C1)OC)O | C16H15N3O3
